US08314088B2
2-chloro-6-(2-methylpiperidin-1-yl)pyrazine
A mixture of 2,6-dichloropyrazine (1.49 g), 2-methylpiperidine (1.76 mL), potassium carbonate (2.07 g) and DMA (10 mL) was stirred at 80° C. for 22 hr. Water (10 mL) was added, and the mixture was extracted with ethyl acetate. The aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with water and saturated brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography (solvent gradient: 5→20% ethyl acetate/hexane) to give the title compound (1.85 g, 87%) as a pale-yellow oil.

reactant | 2,6-dichloropyrazine | 1.49 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | 2-methylpiperidine | 1.76 mL | CC1NCCCC1 | C6H13N
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | Water | 10 mL | O | H2O
product | 2-chloro-6-(2-methylpiperidin-1-yl)pyrazine | 1.85 g, 87% | ClC1=NC(=CN=C1)N1C(CCCC1)C | C10H14ClN3
